US07262201B1
Using an analogous procedure to that described for Example 9, 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (140 mg, 0.415 mmol), (prepared as described for the starting material in Example 2), was reacted with 3-(4-chlorophenyl)-4,5-dihydro-1H-pyrazol-5-one (202 mg, 1.04 mmol) in the presence of sodium hydride (41.5 mg, 1.04 mmol, prewashed with THF) in DMF (2.5 ml) to give 4-(5-(4-chlorophenyl)pyrazol-3-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline (150 mg, 73%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.415 mmol, 140 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 3-(4-chlorophenyl)-4,5-dihydro-1H-pyrazol-5-one | 1.04 mmol, 202 mg | ClC1=CC=C(C=C1)C1=NNC(C1)=O | C9H7ClN2O
reactant | sodium hydride | 1.04 mmol, 41.5 mg | [H-].[Na+]
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 4-(5-(4-chlorophenyl)pyrazol-3-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 150 mg, 73% | ClC1=CC=C(C=C1)C1=CC(=NN1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C25H26ClN5O4
